US07858640B2
8-chloro-3-(4-chlorobenzyl)-2,4-dimethyl-5-(1H-tetrazol-5-ylmethoxy)quinoline
A mixture of [8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]acetonitrile (0.10 g), sodium azide (0.026 g), ammonium chloride (0.022 g) and N,N-dimethylformamide (1.5 mL) was heated by microwave irradiation at 100° C. for 45 minutes. The mixture was diluted with ethyl acetate (20 mL) and saturated aqueous sodium chloride solution (20 mL). The resulting precipitate was collected by filtration, washed with water and ethyl acetate and dried to afford title compound as a white solid, 0.14 g.

reactant | [8-chloro-3-(4-chlorobenzyl)-2,4-dimethylquinolin-5-yloxy]acetonitrile | 0.10 g | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)OCC#N | C20H16Cl2N2O
reactant | sodium azide | 0.026 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.022 g | [Cl-].[NH4+]
reactant | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium chloride | 20 mL | [Cl-].[Na+]
product | 8-chloro-3-(4-chlorobenzyl)-2,4-dimethyl-5-(1H-tetrazol-5-ylmethoxy)quinoline | ClC=1C=CC(=C2C(=C(C(=NC12)C)CC1=CC=C(C=C1)Cl)C)OCC1=NN=NN1 | C20H17Cl2N5O
